* OPA2604
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: OPA2604
* Date: 01JUL2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS006
*
* Model Version: 1.0
*
*****************************************************************************
* 
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT OPA2604 1 2 3 4 5
C1   11 12 22.85E-12
C2    6  7 32.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 418.4E3 -40E3 40E3 40E3 -40E3
GA    6  0 11 12 2.011E-3
GCM   0  6 10 99 20.11E-9
ISS   3 10 DC 800.0E-6
HLIM 90  0 VLIM 1K
J1   11  2 10 JX
J2   12  64 10 JX
G11 2 4 POLY(4) (10,2) (11,2) (4,2) (66,0) 0 1E-12 1E-12 1E-12 6E-6
G21 1 4 POLY(4) (10,1) (12,1) (4,1) (68,0) 0 1E-12 1E-12 1E-12 6E-6
R2    6  9 100.0E3
RD1   4 11 497.4
RD2   4 12 497.4
RO1   8  5 25
RO2   7 99 75
*  RP    3  4 6.294E3
RSS  10 99 250.0E3
VB    9  0 DC 0
VC    3 53 DC 3
VE   54  4 DC 3
VLIM  7  8 DC 0
VLP  91  0 DC 50
VLN   0 92 DC 50
* OUTPUT SUPPLY MIRROR
FQ3   0 20 POLY(1) VLIM 0  1
DQ1  20 21 DX
DQ2  22 20 DX
VQ1  21  0 0
VQ2  22  0 0
FQ1   3  0 POLY(1) VQ1  3.45E-3  1
FQ2   0  4 POLY(1) VQ2  3.45E-3 -1
* QUIESCIENT CURRENT
RQ    3  4  6.0E4
* DIFF INPUT CAPACITANCE
CDIF  1  2  8.0E-12
* COMMON MODE INPUT CAPACITANCE
C1CM  1  99 5.0E-12
C2CM  2  99 5.0E-12
* INPUT VOLTAGE NOISE
VN1 61 0  0.6
VN2 0  62 0.6
DN1 61 63 DY
DN2 63 62 DY
EN 64 1  63 0 1
* INPUT CURRENT NOISE
RN1 0 65 60.3865
RN2 65 66 60.3865
RN3 66 0 120.773
RN4 0 67 60.3865
RN5 67 68 60.3865
RN6 68 0 120.773
.MODEL DY D(IS=133.62E-18 AF=1 KF=11.726E-18)
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=12.50E-12 BETA=2.528E-3 VTO=-1)
.ENDS
*