*$
* OPA541
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: OPA541
* Date: 06OCT2022
* Model Type: ALL-IN-ONE
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS153B –SEPTEMBER 2000–REVISED JANUARY 2016
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* Updated PSpice symbol.
* Added .ENDS name as OPA541.
*
* Final 1.0 
* Release to Web
*
*****************************************************************************
* THIS MODEL IS APPLICABLE TO OPA541 OPA2541
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT OPA541   1 2 3 4 5
*****************************************************************************
C1   11 12 10.71E-12
C2    6  7 15.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 2.653E9 -3E9 3E9 3E9 -3E9
GA    6  0 11 12 150.8E-6
GCM   0  6 10 99 337.6E-12
ISS   3 10 DC 120.0E-6
HLIM 90  0 VLIM 1K
J1   11  2 10 JX
J2   12  1 10 JX
G11 2 4 POLY(3) (10,2) (11,2) (4,2) 0 1E-12 1E-12 1E-12
G21 1 4 POLY(3) (10,1) (12,1) (4,1) 0 1E-12 1E-12 1E-12
R2    6  9 100.0E3
RD1   4 11 6.631E3
RD2   4 12 6.631E3
RO1   8  5 .25
RO2   7 99 .25
*  RP    3  4 4.000E3
RSS  10 99 1.667E6
VB    9  0 DC 0
VC    3 53 DC 5
VE   54  4 DC 5
VLIM  7  8 DC 0
VLP  91  0 DC 8.000E3
VLN   0 92 DC 8.000E3
* OUTPUT SUPPLY MIRROR
FQ3   0 20 POLY(1) VLIM 0  1
DQ1  20 21 DX
DQ2  22 20 DX
VQ1  21  0 0
VQ2  22  0 0
FQ1   3  0 POLY(1) VQ1  16.68E-3  1
FQ2   0  4 POLY(1) VQ2  16.68E-3 -1
* QUIESCIENT CURRENT
RQ    3  4  2.5E4
* DIFF INPUT CAPACITANCE
CDIF  1  2  2.0E-12
* COMMON MODE INPUT CAPACITANCE
C1CM  1  99 2.0E-12
C2CM  2  99 2.0E-12
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=2.000E-12 BETA=94.75E-6 VTO=-1)
.ENDS OPA541
